US05364871
A mixture of 4-(4-chloro-6-phthalimidomethylpyridin-2-yl)-2-(diaminomethyleneamino)thiazole (1.10 g) and hydrazine mono-hydrate (400 mg) in ethanol (200 ml) was refluxed for 5 hours. After the solvent and excess hydrazine monohydrate were removed by concentration, water (10 ml) was added to the residue and the suspension was adjusted to pH 2 with 6N-hydrochloric acid. The resulting precipitate was filtered off, washed with water (5 ml) and the filtrate and the washing solution were combined. After the solution was readjusted to pH 4 with aqueous sodium bicarbonate, potassium cyanate (320 mg) was added to the solution and the mixture was stirred for 14 hours at ambient temperature. The reaction mixture was readjusted to pH 4 with 6N-hydrochloric acid, additional potassium cyanate (215 mg) was added and the solution was further stirred for 8 hours. The mixture was made basic to pH 10 with aqueous potassium carbonate. The resulting precipitate was collected by filtration, washed with water and recrystallized from a mixture of N,N-dimethylformamide and water to give 4-(4-chloro-6-ureidomethylpyridin-2-yl)-2-(diaminomethyleneamino)thiazole (0.28 g).

reactant | 4-(4-chloro-6-phthalimidomethylpyridin-2-yl)-2-(diaminomethyleneamino)thiazole | 1.10 g | ClC1=CC(=NC(=C1)CN1C(C=2C(C1=O)=CC=CC2)=O)C=2N=C(SC2)N=C(N)N | C18H13ClN6O2S
reactant | hydrazine mono-hydrate | 400 mg | O.NN
solvent | ethanol | 200 ml | C(C)O | C2H6O
product | 4-(4-chloro-6-ureidomethylpyridin-2-yl)-2-(diaminomethyleneamino)thiazole | 0.28 g | ClC1=CC(=NC(=C1)CNC(=O)N)C=1N=C(SC1)N=C(N)N | C11H12ClN7OS
